US08242280B2
Sodium borohydride (85.5 mg, 2.25 mmol) was added to methanol (5 mL) at 0° C. After 5 min., 2-(2-amino-5-bromo-pyridin-3-yl)-N,N-dimethyl-2-oxo-acetamide (408 mg, 1.50 mmol) in MeOH (15 mL) was added. After 1 h, the reaction was quenched by addition of saturated NH4Cl and the mixture was concentrated in vacuo. The residue was extracted with ethyl acetate, dried over Na2SO4 and purified by silica gel chromatography using DCM and MeOH to afford 2-(2-amino-5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide (234 mg, 57.1%) as a brown oily solid. The material was used in the next step. MS: m/z 274 (M+H+).

reactant | Sodium borohydride | 2.25 mmol, 85.5 mg | [BH4-].[Na+]
reactant | 2-(2-amino-5-bromo-pyridin-3-yl)-N,N-dimethyl-2-oxo-acetamide | 1.50 mmol, 408 mg | NC1=NC=C(C=C1C(C(=O)N(C)C)=O)Br | C9H10BrN3O2
solvent | MeOH | 15 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 2-(2-amino-5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide | 234 mg, 57.1% | NC1=NC=C(C=C1C(C(=O)N(C)C)O)Br | C9H12BrN3O2
